US07169761B2
Sodium borohydride (0.15 g) was added to a solution of 3-methoxymethyl-5-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzaldehyde (2.6 g) in a 1:1 mixture of methanol and THF (10 ml) and the mixture was stirred for one hour. Acetone (5.0 ml) was added to the reaction mixture and the mixture was stirred for 10 minutes. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-(hydroxymethyl)-5-(methoxymethyl) phenyl]-D-glucitol (2.1 g).

reactant | Sodium borohydride | 0.15 g | [BH4-].[Na+]
reactant | 3-methoxymethyl-5-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzaldehyde | 2.6 g | COCC=1C=C(C=O)C=C(C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C43H44O7
reactant | methanol | CO | CH4O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | Acetone | 5.0 ml | CC(=O)C | C3H6O
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-(hydroxymethyl)-5-(methoxymethyl) phenyl]-D-glucitol | 2.1 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC(=C1)COC)CO | C43H46O7
